US09353075B2
Step 4. Preparation of (4-methyltetrahydropyran-4-yl)-N-[(2S,3R)-2-methyl-4-oxo-oxetan-3-yl]-carbamate
In a round bottomed flask equipped with a magnetic stirrer and a dropping funnel (2R,3S)-3-hydroxy-2-[(4-methyltetrahydropyran-4-yl)oxycarbonylamino]-butanoic acid (0.2 g, 0.77 mmol) was dissolved in anhydrous CH2Cl2 (7 mL). The clear yellow solution was cooled to 0° C., PyBOP (0.48 g, 0.92 mmol) was added, followed by dropwise addition, over a period of 10 min, of Et3N (0.32 mL, 3.85 mmol) solution in anhydrous CH2Cl2 (5 mL). The crude mixture was stirred at 0° C. for 1 h then overnight at rt. The reaction was quenched by addition of 5% NaHCO3 solution (10 mL) and the corresponding mixture was vigorously stirred for 10 min. The two phases were separated and the organic one collected, dried over Na2SO4 and concentrated to dryness to leave an oil, which was purified by typical chromatography eluting with petroleum ether/AcOEt (from 20:80 to 0:100) to give title compound (0.036 g, 19%) as a light yellow oil. MS (ESI) m/z: 244.1 [M−H]+; (ESI) m/z: 242.2 [M−H]−. 1H NMR (DMSO-d6) δ 1.20 (d, J=6.3 Hz, 3H), 1.48 (s, 3H), 1.67 (m, 2H), 1.99 (m, 2H), 3.60 (m, 4H), 4.83 (m, 1H), 5.37 (dd, J=9.3, 6.3 Hz, 1H), 8.12 (d, J=9.3 Hz, 1H).

reactant | (2R,3S)-3-hydroxy-2-[(4-methyltetrahydropyran-4-yl)oxycarbonylamino]-butanoic acid | 0.77 mmol, 0.2 g | O[C@H]([C@H](C(=O)O)NC(=O)OC1(CCOCC1)C)C | C11H19NO6
reactant | PyBOP | 0.92 mmol, 0.48 g | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | Et3N | 3.85 mmol, 0.32 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (4-methyltetrahydropyran-4-yl)-N-[(2S,3R)-2-methyl-4-oxo-oxetan-3-yl]-carbamate | 0.036 g, 19% | CC1(CCOCC1)OC(N[C@@H]1[C@@H](OC1=O)C)=O | C11H17NO5
